US04199354
D. (3,5-dicarbomethoxy-4-nitrophenoxy)-N,N-dihexylacetamide
A stirred solution of (3,5-dicarbomethoxy-4-nitrophenoxy)acetyl chloride in tetrahydrofuran, cooled in an ice bath, is treated dropwise with a tetrahydrofuran solution containing 1 equivalent each of dihexylamine and triethylamine. After the addition, the precipitated amino hydrochloride is removed by filtration and the tetrahydrofuran filtrate is concentrated under reduced pressure to an oil which is used directly in the next step.

reactant | (3,5-dicarbomethoxy-4-nitrophenoxy)acetyl chloride | C(=O)(OC)C=1C=C(OCC(=O)Cl)C=C(C1[N+](=O)[O-])C(=O)OC | C12H10ClNO8
reactant | dihexylamine | 1 equivalent | C(CCCCC)NCCCCCC | C12H27N
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | (3,5-dicarbomethoxy-4-nitrophenoxy)-N,N-dihexylacetamide | C(=O)(OC)C=1C=C(OCC(=O)N(CCCCCC)CCCCCC)C=C(C1[N+](=O)[O-])C(=O)OC | C24H36N2O8
